US04092309
(a) 6-(4-Pyridyl)-1,2-dihydro-2-oxonicotinyl Chloride Hydrochloride
A mixture of 13 g. of 6-(4-pyridyl)-1,2-dihydro-2-oxonicotinic acid (U.S. Pat. No. 3,873,523) and 90 ml. of thionyl chloride is stirred at room temperature for 16 hours, then diluted with 250 ml. of hexane. The resulting precipitate of 6-(4-pyridyl)-1,2-dihydro-2-oxonicotinyl chloride hydrochloride is collected by filtration, washed with hexane and dried.

reactant | 6-(4-pyridyl)-1,2-dihydro-2-oxonicotinic acid | N1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C11H8N2O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | hexane | CCCCCC | C6H14
product | 6-(4-Pyridyl)-1,2-dihydro-2-oxonicotinyl Chloride Hydrochloride | Cl.N1=CC=C(C=C1)C=1NC(C(CCl)=CC1)=O | InChI=1S/C11H9ClN2O.ClH/c12-7-9-1-2-10(14-11(9)15)8-3-5-13-6-4-8;/h1-6H,7H2,(H,14,15);1H
